US08278482B2
1-(3-(Benzyloxycarbonylamino)-3-methylbutyl)-1-methylpiperidinium iodide
In a 15 mL pressure tube, methyl iodide (2.0 mL, 5 equiv, 31.3 mmol) was added to a stirred solution of benzyl 2-methyl-4-(piperidin-1-yl)butan-2-ylcarbamate (1.91 g, 6.27 mmol) in ethanol (2.0 mL, 3.1 M). The pressure tube was sealed and the reaction was left to stir for 3 days. The yellow solution was poured into a round bottomed flask and the tube rinsed with ethanol. The reaction mixture was concentrated in vacuo to a syrup. Repeated addition and evaporation of isopropyl alcohol (3×10 mL) from the flask followed by acetonitrile (50 mL) gave a white solid. This solid was recrystallized from isopropyl alcohol. The crystals were filtered and rinsed with a small amount of cold isopropyl alcohol and dried under high vacuum to give white crystals, (2.51 g, 89.6%). 1H NMR (D2O, 400 MHz): δ 1.30 (s, 6H), 1.43-1.82 (m, 6H), 2.04-2.10 (m, 2H), 2.84 (s, 3H), 3.04-3.24 (m, 6H), 5.08 (s, 2H), 7.38-7.50 (m, 5H). LRMS (ESI+) for C19H31N2O2+ (319.2); Found: 319 (M+).

reactant | methyl iodide | 31.3 mmol, 2.0 mL, 5 equiv | CI | CH3I
reactant | benzyl 2-methyl-4-(piperidin-1-yl)butan-2-ylcarbamate | 6.27 mmol, 1.91 g | CC(C)(CCN1CCCCC1)NC(OCC1=CC=CC=C1)=O | C18H28N2O2
solvent | ethanol | 3.1 M, 2.0 mL | C(C)O | C2H6O
product | 1-(3-(Benzyloxycarbonylamino)-3-methylbutyl)-1-methylpiperidinium iodide | [I-].C(C1=CC=CC=C1)OC(=O)NC(CC[N+]1(CCCCC1)C)(C)C | InChI=1S/C19H30N2O2.HI/c1-19(2,12-15-21(3)13-8-5-9-14-21)20-18(22)23-16-17-10-6-4-7-11-17;/h4,6-7,10-11H,5,8-9,12-16H2,1-3H3;1H
